US09023847B2
35. 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (4-chloro-phenyl)-amide
This compound was prepared in an analogous manner as 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester using 4-chloroaniline instead of 1-BOC-3-aminopyrrolidine. LCMS (ESI) 369 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 11.56 (1H, br. s.) 10.12 (1H, s) 9.99 (1H, s) 8.04 (1H, d, J=5.47 Hz) 7.91 (1H, d, J=0.10 Hz) 7.71 (2H, d, J=8.93 Hz) 7.52 (1H, d, J=5.37 Hz) 7.37-7.43 (2H, m) 7.33 (1H, dd, J=3.25, 2.61 Hz) 6.85 (1H, d, J=5.42 Hz) 6.46 (1H, dd, J=3.49, 1.88 Hz)

reactant | 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)NC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C21H25N5O3S
reactant | 4-chloroaniline | ClC1=CC=C(N)C=C1 | C6H6ClN
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (4-chloro-phenyl)-amide | ClC1=CC=C(C=C1)NC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C18H13ClN4OS
